US04625036
4-Chloropropiophenone (33.6 g.) was dissolved in anhydrous diethyl ether (50 ml.), stirred and cooled in an ice bath while bromine (32 g.) was added dropwise over 30 minutes. The solid which formed was filtered off, washed with water and air-dried to give 2-bromo-4'-chloropropiophenone, m.p. 77°-79°.

reactant | 4-Chloropropiophenone | 33.6 g | CCC(=O)C1=CC=C(C=C1)Cl | C9H9ClO
reactant | bromine | 32 g | BrBr | Br2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-bromo-4'-chloropropiophenone | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
